US04781927
N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl ester is dissolved in CH3OH and hydrogenated over 10% Pd/C in a Paar hydrogenation apparatus. When the reaction is complete the mixture is filtered through Celite and concentrated to yield 2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl ester (600 mg).

reactant | N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl ester | CC1(C(C(CC1)(C)C)OC(C(C)(C)NC(=O)OCC1=CC=CC=C1)=O)C | C21H31NO4
solvent | CH3OH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl ester | 600 mg | CC1(C(C(CC1)(C)C)OC(C(C)(C)N)=O)C | C13H25NO2
